US07541374B2
1.57 g of 1-chloromethyl-3-formylpyrazole hydrochloride and 1.52 g of (3,3,3-trifluoropropyl) malononitrile were dissolved in 30 ml of N,N-dimethylformamide. 2.76 g of potassium carbonate was added to the solution under ice cooling with stirring, followed by stirring at room temperature for 5 hours. Water was added to the reaction mixture, and then extracted with MTBE. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.05 g of [(3-formyl-1H-pyrazole-1-yl)methyl](3,3,3-trifluoropropyl) malononitrile (referred as the compound of the present invention (8), hereinafter) shown by below formula.

reactant | 1-chloromethyl-3-formylpyrazole hydrochloride | 1.57 g | Cl.ClCN1N=C(C=C1)C=O
reactant | (3,3,3-trifluoropropyl) malononitrile | 1.52 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | [(3-formyl-1H-pyrazole-1-yl)methyl](3,3,3-trifluoropropyl) malononitrile | 0.05 g | C(=O)C1=NN(C=C1)CC(C#N)(C#N)CCC(F)(F)F | C11H9F3N4O
